Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
___ y/o female with MEN 2A and adrenal medullary hyperplasia, 
elevated plasma free with clinical signs/symptoms of an 
excessive catecholamine state.
 
Major Surgical or Invasive Procedure:
Laparoscopic bilateral adrenalectomy - ___ - Dr. ___ 
___

 
History of Present Illness:
___ is a ___ yo female with MEN2A, h/othyroidectomy, 
and adrenal medullary hyperplasia who presents for bilateral 
adrenalectomy. The patient was diagnosed with MEN2A at the age 
of ___ by a blood test (likely RET mutation analysis) due to the 
significant family history (see below). She had a prophylactic 
thyroidectomy shortly thereafter. The patient had been followed
by a pediatric endocrinologist at ___ for 
most of her life, and switched her care to adult endocrinology 
in ___ of this year. The patient is scheduled to undergo 
bilateral adrenalectomy by Dr. ___. 

 
Past Medical History:
- MEN II (thyroid mass, s/p thyroidectomy)
- Depression
- Anxiety
 
Social History:
___
Family History:
___ at ___, majoring in biobiopsychology with 
minor statistics with plans for career in ___. Lives with 1 
roommate in dorm. Family in ___. Denies tobacco or 
illicit drug use; occasional EtOH. Sexually active with 1 
partner, always uses condoms, no h/o STDs. 
 
Pertinent Results:
___ 06:00AM BLOOD WBC-9.9 RBC-3.61* Hgb-11.3* Hct-31.7* 
MCV-88 MCH-31.2 MCHC-35.6* RDW-12.9 Plt ___
___ 06:50PM BLOOD WBC-8.4 RBC-3.41* Hgb-10.5* Hct-29.8* 
MCV-87 MCH-30.8 MCHC-35.2* RDW-12.3 Plt ___
___ 06:00AM BLOOD Glucose-133* UreaN-4* Creat-0.6 Na-141 
K-3.5 Cl-104 HCO3-28 AnGap-13
 
Brief Hospital Course:
Ms. ___ is a very pleasant ___ y/o female with history of 
MEN 2A and adrenal medullary hyperplasia. The patient was 
admitted to Urology after undergoing laparoscopic right and left 
adrenalectomy. No concerning intraoperative events occurred; 
please see dictated operative note for details. The patient 
received perioperative antibiotic prophylaxis. The patient was 
transferred to the floor from the PACU in stable condition. Due 
to her Endocrinological requirements, the Endocrine service was 
contacted and provided instruction and guidance related to her 
post operative care and for the duration of her stay. On POD0, 
pain was well controlled on PCA, she  was hydrated for urine 
output >30cc/hour, and provided with pneumoboots and incentive 
spirometry for prophylaxis. On POD1, the patient ambulated, was 
restarted on home medications excluding Labetalol, a basic 
metabolic panel and complete blood count were checked, her pain 
control was transitioned from PCA to oral analgesics, diet was 
advanced to a clears/toast and crackers diet. On POD1 the 
urethral catheter (foley) were removed without difficulty and 
the patient voided. The Endocrine Department monitored her post 
op steroid regimen closely. The remainder of the hospital course 
was relatively unremarkable. The patient was discharged in 
stable condition, eating well, ambulating independently, voiding 
without difficulty, and with pain controled on oral analgesics. 
On exam, incision was clean, dry, and intact with steristrips in 
place, with no evidence of hematoma collection or infection. The 
patient was given explicit instructions related to new 
medications, she was given a lab slip by Dr. ___ Chem 7 
to be drawn on the upcoming ___, she has a follow up 
appointment scheduled with Dr. ___ on ___ at 1:30. 
Additionally she was instructed to contact Dr. ___ 
discharge to arrange a follow up appointment. 
 
Medications on Admission:
Medications:  
1. Labetalol 
2. Bupropion HCl 100 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained  Release PO QAM (once a day (in the morning)).  

3. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Paroxetine HCl 10 mg Tablet Sig: 1.5 Tablets PO DAILY 
(Daily). 
 
Discharge Medications:
   
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for break through pain only 
(score >4) : to be taken in place of Tylenol for break through 
pain, max Tylenol dose 4 gms daily.
Disp:*90 Tablet(s)* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Bupropion HCl 100 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO QAM (once a day (in the morning)).  
4. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Paroxetine HCl 10 mg Tablet Sig: 1.5 Tablets PO DAILY 
(Daily).  
7. Prednisone 5 mg Tablet Sig: 2 tabs for next two days, then 1 
tablet daily Tablets PO once a day: take medication in am upon 
waking.
Disp:*30 Tablet(s)* Refills:*2*
8. Fludrocortisone 0.1 mg Tablet Sig: ___ tab Tablet PO once a 
day: take medication ___ tab) in am upon waking.
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adrenal hyperplasia

 
Discharge Condition:
Stable

 
Discharge Instructions:
-You may shower but do not bathe, swim or immerse your incision.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids.

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up. 

-Do not drive or drink alcohol while taking narcotics. 

-Resume all of your home medications EXCLUDING Labetalol, and 
start your new steroid regimen as dictated by Dr. ___ 
the ___ team.

-Please have your labs drawn on ___ as requested by Dr. 
___ results ___ be faxed to her attention.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest ER.

-Call Dr. ___ to set up follow-up appointment and if 
you have any urological questions. ___

-A follow-up appointment with Dr. ___ has been arranged 
for you on ___ at 1:30.  Her office phone # is ___

-Dr. ___ with you sick and warm day changes to your 
medications if you have any questions regarding these 
instructions please do not hesistate to contact her office at 
the number above.
 
Followup Instructions:
___